US09340506B2
5-[3-[[tert-butyl(dimethyl)silyl]oxymethyl]phenoxy]thiazol-2-amine
[3-(2-aminothiazol-5-yl)oxyphenyl]methanol (1.70 g, 7.575 mmol), tert-butyldimethylchlorosilane (1.38 g, 9.189 mmol), and imidazole (0.625 g, 9.189 mmol) was taken in 20 mL of dry DMF and heated at 60° C. for overnight. TLC showed consumption of starting material. The reaction mixture was cooled to room temperature and poured into water and extracted with ethyl acetate. The combined organic layer was washed with brine and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to get the crude product which was purified by column chromatography using 5-30% ethyl acetate in hexanes to get pure title compound (0.998 g).

reactant | [3-(2-aminothiazol-5-yl)oxyphenyl]methanol | 7.575 mmol, 1.70 g | NC=1SC(=CN1)OC=1C=C(C=CC1)CO | C10H10N2O2S
reactant | tert-butyldimethylchlorosilane | 9.189 mmol, 1.38 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 9.189 mmol, 0.625 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 5-[3-[[tert-butyl(dimethyl)silyl]oxymethyl]phenoxy]thiazol-2-amine | 0.998 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(OC2=CN=C(S2)N)C=CC1 | C16H24N2O2SSi
